US07635684B2
4-[(4-{3-[(S)-2,5-Diaminopentanoylamino]propoxy}-2-methylphenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 13 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and (S)-2,5-bis-(benzyloxycarbonylamino)pentanoic acid instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole and 2-benzyloxycarbonylaminoacetic acid, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCN)C)C(C)C | C31H43N3O11
reactant | (S)-2,5-bis-(benzyloxycarbonylamino)pentanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CCCNC(=O)OCC1=CC=CC=C1 | C21H24N2O6
reactant | 2-benzyloxycarbonylaminoacetic acid | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
product | 4-[(4-{3-[(S)-2,5-Diaminopentanoylamino]propoxy}-2-methylphenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | N[C@H](C(=O)NCCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C)CCCN | C28H45N5O8
